US04808729
5-[(5-Bromopentyl)oxy]-1,2,3,4-tetrahydronaphthalene
The title compound was prepared according to the procedure of Example 7 using 5,6,7,8-tetrahydronaphthalen-1-ol (8 g, 0.054 mol) in methylene chloride (100 ml), sodium hydroxide (4.32 g. 0.108 mol) in water (100 ml), 1,5-dibromopentane (37 g, 0.19 mol) and tetra-n-butylammonium bisulfate (18.3 g, 0.054 mol). Chromatography of the crude product on silica gel using 20% ethyl acetate/hexane as eluent gave 12 g (69%) of the title compound as an oil.

reactant | 5,6,7,8-tetrahydronaphthalen-1-ol | 0.054 mol, 8 g | C1(=CC=CC=2CCCCC12)O | C10H12O
reactant | sodium hydroxide | 0.108 mol, 4.32 g | [OH-].[Na+]
reactant | 1,5-dibromopentane | 0.19 mol, 37 g | BrCCCCCBr | C5H10Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
catalyst | tetra-n-butylammonium bisulfate | 0.054 mol, 18.3 g | S([O-])(O)(=O)=O.C(CCC)[N+](CCCC)(CCCC)CCCC
product | 5-[(5-Bromopentyl)oxy]-1,2,3,4-tetrahydronaphthalene | 12 g, 69% | BrCCCCCOC1=C2CCCCC2=CC=C1 | C15H21BrO
